US09328116B2
Synthesis of 1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-3-[3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]pyrrolidin-2-one
A mixture of 3-[3-(4,5-dihydro-1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one (0.085 g, 0.18 mmol) and Dess-Martin periodinane (0.153 g, 0.36 mmol) in DMSO (2.5 mL) was stirred at 80° C. for 1 hr. It was then cooled to room temperature, quenched with sat. aq. NaHCO3 (50 mL), and extracted with EtOAc (50 mL). The organic layer was separated, dried over anhydrous sodium sulfate, concentrated in vacuo and purified by flash chromatography (SiO2, 0˜7% MeOH/EtOAc gradient elution) to give the title compound (0.070 g, 82%). 1H NMR (400 MHz, CDCl3) δ 10.42 (s, 1H, br), 8.74 (dd, J=8.4, 1.6 Hz, 1H), 8.54 (dd, J=4.8, 1.6 Hz, 1H), 7.64 (s, 1H), 7.40 (dd, J=6.8, 4.6 Hz, 2H), 7.23 (m, 1H), 7.18 (dd, J=8.6 Hz, 2H), 6.94 (s, 1H, br), 5.94 (dd, J=9.2, 9.2 Hz, 1H), 3.94 (m, 3H), 3.07 (heptet, J=6.8, 1H), 2.75-2.95 (m, 2H), 1.33 (d, J=7.6 Hz, 3H), 1.28 (d, J=7.2 Hz, 3H); MS: (ES) m/z calculated for C25H23FN8O [M+H]+471.2. found 471.2.

reactant | 3-[3-(4,5-dihydro-1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.18 mmol, 0.085 g | N1C(=NCC1)C1=NN(C2=NC=CC=C21)C2C(N(CC2)C=2C=NN(C2C(C)C)C2=CC=C(C=C2)F)=O | C25H25FN8O
reactant | Dess-Martin periodinane | 0.36 mmol, 0.153 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | 1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-3-[3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]pyrrolidin-2-one | 0.070 g, 82% | FC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N1C(C(CC1)N1N=C(C=2C1=NC=CC2)C=2NC=CN2)=O | C25H23FN8O
